US07084170B2
4-Methylthiophene-2-sulfonamide
To a stirred solution of 5-bromo-4-methylthiophene-2-sulfonamide (3.1 g, 12.1 mmol) in AcOH (30 mL) is added zinc dust (2.4 g, 36.2 mmol). The reaction mixture is heated to reflux for 8 hr. After 8 hr, the reaction mixture is cooled and filtered. The filtrate is neutralized with 1 M NaOH. The aqueous layer is extracted with EtOAc (300 mL). The organics are dried (Na2SO4), filtered and concentrated in vacuo. The crude product is chromatographed on silica gel, eluting with CH2Cl2 to afford the title compound (0.90 g, 43%).

reactant | 5-bromo-4-methylthiophene-2-sulfonamide | 12.1 mmol, 3.1 g | BrC1=C(C=C(S1)S(=O)(=O)N)C | C5H6BrNO2S2
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
catalyst | zinc | 36.2 mmol, 2.4 g | [Zn] | Zn
product | 4-Methylthiophene-2-sulfonamide | 0.90 g, 43% | CC=1C=C(SC1)S(=O)(=O)N | C5H7NO2S2
